US04824848
2-Butyryl-7-(3-chlorobenzyl)-3-methylamino-5-propyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
A mixture of 7-(3-chlorobenzyl)-3-methylamino-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione (0.7 g, 2 mM) and butyric anhydride (0.64 g, 4 mM) in pyridine (10 ml) was stirred at 60° C. for 27 hours. The reaction solution was concentrated to dryness and the residue was purified by chromatography on silica gel (18 g, chloroform). Recrystallization from acetone/isopropyl ether gave colorless needles (0.63 g, 75%), m.p. 152°-153° C.

reactant | 7-(3-chlorobenzyl)-3-methylamino-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 2 mM, 0.7 g | ClC=1C=C(CN2C(N(C(C3=C2NN=C3NC)=O)CCC)=O)C=CC1 | C16H18ClN5O2
reactant | butyric anhydride | 4 mM, 0.64 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-Butyryl-7-(3-chlorobenzyl)-3-methylamino-5-propyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 0.63 g, 75% | C(CCC)(=O)N1N=C2N(C(N(C(C2=C1NC)=O)CCC)=O)CC1=CC(=CC=C1)Cl | C20H24ClN5O3
